US09340546B2
TFA (2 mL, 25.96 mmol) was added to a stirred solution of tert-butyl 4-(3-chloro-5-fluoro-4-pyridyl)-3,6-dihydro-2H-pyridine-1-carboxylate (708 mg, 2.264 mmol) in DCM (10 mL) and the reaction stirred at ambient temperature for 2 hours. The solvent was removed in vacuo and the residue azeotroped with DCM (×2) and ether (×2). The residue was passed through a 10 g SCX-2 cartridge and washed with MeOH/DCM mixtures. The product was eluted by washing the cartridge with 2M NH3 in MeOH/DCM mixtures and concentrated in vacuo to give 3′-chloro-5′-fluoro-1,2,3,6-tetrahydro-4,4′-bipyridine as an off-white solid (468 mg, 97% Yield). MS (ES+) 213.1.

reactant | TFA | 25.96 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-(3-chloro-5-fluoro-4-pyridyl)-3,6-dihydro-2H-pyridine-1-carboxylate | 2.264 mmol, 708 mg | ClC=1C=NC=C(C1C=1CCN(CC1)C(=O)OC(C)(C)C)F | C15H18ClFN2O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3′-chloro-5′-fluoro-1,2,3,6-tetrahydro-4,4′-bipyridine | 468 mg, 97% Yield | ClC=1C=NC=C(C1C=1CCNCC1)F | C10H10ClFN2
